Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfonamides / Demerol / Lactose
 
Attending: ___.
 
Chief Complaint:
dysuria, hematuria
 
Major Surgical or Invasive Procedure:
Cystoscopy ___
Thoracentesis ___
Left pigtail catheter placement ___
 
History of Present Illness:
___ y/o F h/o pancreatic CA s/p whipple's and chemoradiation, 
Crohn's disease on prednisone, DM, and 4 month history of 
candiduria on voriconazole a/w dysuria and hematuria. She has 
had progressive dysuria over the past 5 days, and 2 nights prior 
to admission began passing painful clots. She has had suprapubic 
pain associated with urinary retention. She has not had fever or 
chills. The pain was so severe that she came to the ED this AM. 
In the ED, T 97.1 HR 125 BP 124/68 RR 24 O2sat 96 RA. A Foley 
was placed. She received 2 L NS and oxycodone 5 mg x 1.
She was recently hospitalized from ___ to ___ during which she 
underwent VATS and LLL basilar segmentectomy for a lung nodule, 
the pathology from which showed poorly differentiated carcinoma. 
Culture of this nodule grew klebsiella and enterococcus sp. 
During this admission, she underwent 5 days of amphotericin B 
bladder washes, after which a straight cath urine culture (___) 
grew ___ ___ klebsiella and proteus and ___. 
Given her continued urinary symptoms, she was discharged on PO 
ceftibuten.  
She has previously been evaluated ___ urology including a CT 
cystogram on ___ which showed evidence of cystitis but no 
enterovesicular fistula.            
 
Past Medical History:
Recurrent bacterial, fungal UTI
Pancreatic CA s/p chemoradiation, ___ in ___
Lung nodule s/p LLL segmentectomy - bx ___ showed poorly 
differentiated carcinoma c/f metastatic disease
Crohn's disease x ___ yrs
Chronic intra-abdominal abscesses 
DM
CAD s/p LAD stent ___ (___) 
Anemia - b/l Hct ___
hyperlipidemia 
recurrent SBO
hiatal hernia  
diverticulosis  
 
Social History:
___
Family History:
FAMILY HISTORY:  Father had DM and parkinsons, Mother passed 
away of unknown cause in her ___. No known family h/o blood 
disorder or malignancy.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
V/S: T 97 HR 104 BP 103/54 RR 18 O2sat 97% RA
General: Cachectic appearing elderly woman in NAD
HEENT: NC/AT EOMI PERRL OP clear with dry MM
Neck: Supple w/o JVD or cervical/supraclav LAD
CV: RRR nl S1S2 no m/r/g
PULM: Decr. BS @ left base no w/r/r
BACK: no CVA tenderness
ABD: soft non-distended suprapubic TTP no rebound, guarding, no 
masses
SKIN: Thin, atrophic, scattered ecchymoses; no rash
NEURO: A&Ox3, globally weak but no focal weakness
 
Pertinent Results:
___ CT ABD/PELVIS W&W/O CONTRAST
CT OF THE ABDOMEN WITHOUT AND WITH INTRAVENOUS CONTRAST: Limited 
evaluation 
of the lung bases displays normal right lung with air and fluid 
noted within 
the visualized left lower hemithorax which displays enhancement 
of the pleura. 
Pneumobilia consistent with patient's known Whipple procedure is 
again 
present. The liver parenchyma is homogenous with no focal 
lesions and the 
portal venous system remains patent. Remaining pancreas, 
stomach, spleen, 
adrenal glands, and kidneys appear unremarkable without evidence 
of focal 
perfusion abnormalities or hydronephrosis. No pathologically 
enlarged lymph 
nodes or free air is noted within the abdominal cavity. Multiple 
surgical 
clips are noted and there is stable appearance to extensive 
atherosclerotic 
disease. 
  
CT OF THE PELVIS WITHOUT AND WITH INTRAVENOUS CONTRAST: Air is 
noted within a 
Foley containing urinary bladder which displays multiple 
exophytic bladder 
diverticula along its anterior and lateral walls. The bladder 
wall itself 
appears irregular and displays hyperemia. In addition there is 
irregular 
enhancement noted along the thickended posterior left bladder 
wall which is 
subsequently with excreted IV contrast on more delayed images. 
The ureters 
appear unremarkable without any abnormal wall thickening or 
filling defects 
within. Remaining intrapelvic contents including uterus and 
bowel appear 
normal. 
  
BONE WINDOWS: No malignant-appearing osseous lesions are 
identified. 
  
IMPRESSION: 
1. Irregular slightly thickened enhancing bladder wall with more 
focal mural 
irregularity noted along the posterior left surface. While this 
may represent 
underlying cystitis/fungal involvement, neoplasm cannot be 
excluded ___ CT and 
correlation with dedicated cystoscopy should be considered. 
Multiple bladder 
diverticula are again noted. The kidneys and ureters appear 
unremarkable. 
  
2. Expected pneumobilia status post Whipple with no evidence of 
definite 
local recurrence. 
  
3. Air and fluid within the visualized left lower hemithorax 
with pleural 
enhancement. While this may be post-operative, simlar findings 
are present 
with complex effusions such as empyema. Would consider 
correlation with fluid 
analysis. 
.
___ BLADDER U/S
FINDINGS: A Foley catheter was identified within the bladder. 
The bladder 
wall appears irregularly thickened. Along the posterior margin 
of the bladder 
wall, there is an intraluminal mixed echogenicity irregularly 
shaped lesion 
measuring approximately 3.3 x 0.9 cm. There is no appreciable 
flow within this 
lesion. 
  
IMPRESSION: 3.3 x 0.9 cm mixed echogenicity area along the 
posterior margin 
of the bladder wall, likely represents intraluminal clot or 
debris. 
Irregularly thickened bladder wall is unchanged. 
.
___ BLADDER BIOPSY
1.  Edema, vascular congestion, hemorrhage and acute and chronic 
inflammation with scattered eosinophils.
2.  Urothelium largely stripped.
3.  Special stains for fungi (GMS and PAS-D) negative (with 
satisfactory positive controls).
.
___ FRONTAL AND LATERAL CHEST RADIOGRAPH: 
Cardiac and mediastinal contours appear 
unchanged. Multiple air-fluid levels seen in the left side, 
consistent with 
multiple hydropneumothoraces. New small right-sided pleural 
effusion is 
identified. Slightly increasing focus of opacity seen projecting 
over the 
right anterior second rib, possibly infectious. Persistent left 
retrocardiac 
opacity suggests combination of atelectasis and effusion, 
although 
consolidation cannot be excluded. A right-sided PICC line again 
seen, with 
tip projecting over the right atrium on a lateral view. 
  
IMPRESSION: 
1. New left-sided hydropneumothoraces. 
2. New right pleural effusion. 
3. Small focal opacity projecting in the right upper lung, 
possibly 
infectious. 
.
___ ___ doppler U/S
FINDINGS: Ultrasound evaluation of the right and left lower 
extremity deep 
venous system using gray-scale, color, and pulse wave Doppler 
reveals the 
veins to be fully compressible with normal color flow, Doppler 
waveforms, 
augmentation, and respiratory variation in flow. 
  
IMPRESSION: No evidence of DVT involving the right or left lower 
extremity. 
.
___ CT CHEST W/ CONTRAST
FINDINGS: There is a focal filling defect in a segmental branch 
of the left 
pulmonary artery, seen best on series 300B, image 28, but also 
in series 2, 
image 29. This appears to be the vessel going to the retained 
superior 
segment left lower lobe. 
  
The bilateral lungs demonstrate emphysematous changes. There is 
no acute 
pathology in the right lung. There are post-surgical changes 
identified in 
the inferior aspect of the left lung. In particular, a chest 
tube is 
identified coursing into a pocket of pleural air in the 
posterior aspect of 
the left lobe. There is a small amount of dependent pleural 
fluid inferiorly 
in the left lung, as well as additional air in the pleura 
anteriorly at the 
left lung base. There is patchy airspace density at the left 
lung base, which 
may represent postoperative contusion or infiltrate. Chain 
sutures are 
identified at the left lower lung. 
  
The pleural fluid with air in the posterior-inferior left lung 
appears to have 
enhancing pleura, consistent with empyema. The air can be 
explained ___ the 
indwelling catheter. However, possibility of bronchopleural 
fistula is 
entertained. 
  
There are atherosclerotic changes in the aorta. Tracheobronchial 
tree appears 
unremarkable. There is air distention of the proximal esophagus. 

  
The liver and spleen appear unremarkable. Adjacent to the 
spleen, there is an 
enhancing 1.6-cm focus, compatible with a splenule. The kidneys 
enhance 
symmetrically without evidence of focal lesion. There is no 
evidence of 
hydronephrosis. There is a small amount of biliary air noted in 
the left lobe 
of the liver, unchanged from the prior study. Patient is status 
post Whipple 
procedure. 
  
There is limited evaluation of the bowel due to lack of 
sufficient oral 
contrast. There is no frank evidence of bowel dilatation. 
Assessment for 
intra-abdominal abscess is very limited due to lack of oral 
contrast. There 
is stool throughout the colon. There is a right lateral 2.1 x 
1.1 cm bladder 
diverticulum. 
  
Degenerative changes are noted in the thoracolumbar spine. There 
is a paucity 
of subcutaneous fat and infiltration of the fat diffusely, 
compatible with 
third spacing. 
  
IMPRESSION: 
1. Pulmonary embolus in segmental branch of left pulmonary 
artery as 
detailed. 
2. Posterior-inferior left lung pleural fluid and air with 
enhancing pleura, 
consistent with empyema. The air may be attributable to the 
indwelling 
catheter. However, the possibility of bronchopleural fistula 
must be 
considered. 
3. Post-surgical changes compatible with prior Whipple 
procedure. 
.
___ 12:30 pm TISSUE     Site: BLADDER      BIOPSY. 

   GRAM STAIN (Final ___: 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   TISSUE (Final ___: 
      REPORTED ___ PHONE TO ___ @ 11:50 AM ON 
___. 
      PROTEUS VULGARIS.    SPARSE GROWTH. 
      ENTEROCOCCUS SP..    QUANTITATION NOT AVAILABLE. 
         SENSITIVITIES PERFORMED ON CULTURE # ___ 
(___). 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             PROTEUS VULGARIS
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
LEVOFLOXACIN----------<=0.25 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN----------   <=4 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Final ___: 
      UNABLE TO R/O OTHER PATHOGENS DUE TO OVERGROWTH OF 
SWARMING PROTEUS
      SPP.. 

   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
.
___ 12:30 pm FLUID,OTHER     Site: BLADDER      BLOOD CLOT. 


   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   FLUID CULTURE (Final ___: 
      ENTEROCOCCUS SP..    SPARSE GROWTH. 
      PROTEUS VULGARIS.    RARE GROWTH. 
         IDENTIFICATION AND SENSITIVITIES PERFORMED ON CULTURE # 
___
         (___). 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ENTEROCOCCUS SP.
                             |   
AMPICILLIN------------   <=2 S
PENICILLIN G----------     1 S
VANCOMYCIN------------   <=1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


   FUNGAL CULTURE (Preliminary):    NO FUNGUS ISOLATED. 
.
___ 12:52 pm FLUID RECEIVED IN BLOOD CULTURE BOTTLES
      PLEURAL FLUID. 

                            **FINAL REPORT ___

   Fluid Culture in Bottles (Final ___: 
      KLEBSIELLA OXYTOCA.    FINAL SENSITIVITIES.  STRAIN 1. 
         WARNING! This isolate is an extended-spectrum 
beta-lactamase
         (ESBL) producer and should be considered resistant to 
all
         penicillins, cephalosporins, and aztreonam. Consider 
Infectious
         Disease consultation for serious infections caused ___
         ESBL-producing species. 
      ENTEROCOCCUS FAECALIS.    FINAL SENSITIVITIES. 
         HIGH LEVEL GENTAMICIN SCREEN: Susceptible to 500 mcg/ml 
of
         gentamicin. Screen predicts possible synergy with 
selected
         penicillins or vancomycin. Consult ID for details. 
         HIGH LEVEL STREPTOMYCIN SCREEN: Susceptible to 
1000mcg/ml of
         streptomycin.  Screen predicts possible synergy with 
selected
         penicillins or vancomycin.  Consult ID for details.. 
      KLEBSIELLA OXYTOCA.    FINAL SENSITIVITIES.  STRAIN 2. 
         WARNING! This isolate is an extended-spectrum 
beta-lactamase
         (ESBL) producer and should be considered resistant to 
all
         penicillins, cephalosporins, and aztreonam. Consider 
Infectious
         Disease consultation for serious infections caused ___
         ESBL-producing species. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |          ENTEROCOCCUS FAECALIS
                             |          |          KLEBSIELLA 
OXYTOCA
                             |          |          |   
AMPICILLIN------------              <=2 S
AMPICILLIN/SULBACTAM--  =>32 R                =>32 R
CEFAZOLIN-------------  =>64 R                =>64 R
CEFEPIME--------------       R                     R
CEFTAZIDIME-----------  =>64 R                =>64 R
CEFTRIAXONE-----------       R                     R
CEFUROXIME------------  =>64 R                =>64 R
CIPROFLOXACIN---------     2 I                   2 I
GENTAMICIN------------   <=1 S                 <=1 S
MEROPENEM-------------<=0.25 S              <=0.25 S
PENICILLIN G----------                2 S
PIPERACILLIN/TAZO-----     8 S                   8 S
TOBRAMYCIN------------   <=1 S                 <=1 S
TRIMETHOPRIM/SULFA----   <=1 S                 <=1 S
VANCOMYCIN------------              <=1 S
.
___ 12:52 pm PLEURAL FLUID
      FOR AEROBIC AND ANAEROBIC CULTURE RESULTS, PLEASE REFER TO
      ACC#___-___ (___). 

   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 

   FUNGAL CULTURE (Preliminary): 
      ___ ALBICANS. 
         REPORTED ___ PHONE TO ___ ___ ___ 10:10AM. 
         FLUCONAZOLE SENSITIVITY REQUESTED ___ ___. ___ ___ 
___. 
         Fluconazole SENSITIVE PERFORMED ___ ___. 
.
___ 5:25 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

   FUNGAL CULTURE (Final ___: 
      ___ ALBICANS. 
      YEAST, PRESUMPTIVELY NOT C. ALBICANS. 
.
___ PATHOLOGY Lung, left lower lobe, lobectomy (O-AT):

1.  Poorly differentiated carcinoma, favor metastatic.  See 
note.

2.  Acute and organizing pneumonia.

Lymph nodes, L9, biopsy (A):

Multiple lymph nodes, no malignancy identified.

Lymph nodes, 11L, biopsy (B):

One lymph node, no malignancy identified.

Lymph nodes, 13L, biopsy (C-E):

Multiple lymph nodes, no malignancy identified.

Lymph nodes, level 5, biopsy (F-G):

Multiple lymph nodes, no malignancy identified.

Lymph nodes, level 6, biopsy (H-K):

Multiple lymph nodes, no malignancy identified.

Lymph nodes, level 7, biopsy (L-N):

Multiple lymph nodes, no malignancy identified.
.
___ Bladder Fluid Cytology
NEGATIVE FOR MALIGNANT CELLS. 
    
  Few urothelial cells. 
    
  Squamous cells, histiocytes, lymphocytes, red blood cells 
  and many neutrophils. 
    
  Note: No fungal elements identified. 
.
___ Pleural Fluid Cytology
    
  NEGATIVE FOR MALIGNANT CELLS. 
    
  Degenerated specimen with histiocytes, mesothelial cells, 
  bacteria, and debris. 
.
___ 05:14AM CA ___  
  Test Name                    In Range     Out of Range      
Reference Range
---------                    --------     ------------      
---------------
 CA ___                                     213  H           0 
- 37 U/ML 
                                                            ___ 
___
.
 
Brief Hospital Course:
#LLL Empyema - The patient underwent thoracentesis and pigtail 
catheter placement for a left lower lobe empyema on ___ with 
removal of purulent pleural fluid. She was treated empirically 
with vancomycin and zosyn. Pleural fluid culture grew ESBL 
klebsiella, enterococcus, and ___ albicans.  Her 
antimicrobial regimen was changed to vancomycin, meropenem, and 
caspofungin. Caspofungin was changed to fluconazole after 6 days 
based on sensitivity data. Cytology was negative for malignant 
cells but was a degenerated specimen. The pigtail catheter was 
changed to a pneumostat prior to discharge. The patient has 
scheduled follow up with thoracic surgery and ID the week 
following discharge.
.  
#Cystitis - ___ species isolated from prior urine cultures 
dated ___ and ___ were refractory to voriconazole and 
amphotericin bladder washes during prior hospitalizations. 
During this admission she completed a 7 day course of 
amphotericin IV. She was also treated with a 7 day course of 
levofloxacin for bacterial cystitis based on urine cultures 
growing enterococcus and proteus species. Her dysuria was 
relieved with pyridium and urinary frequency and bladder spasm 
improved with oxybutinin.
.  
#PE - Incidental note was made of a PE in a segmental branch of 
the left pulmonary artery, the vessel going to the retained 
superior segment left lower lobe status post left lower lobe 
composite basilar segmentectomy on ___. Bilateral lower 
extremity doppler ultrasound was negative for DVT. The patient, 
the primary medical team, and the thoracic surgery team decided 
to defer anticoagulation due to the absence of symptoms, the 
inherent risks of anticoagulation particularly in light of her 
initial presentation of gross hematuria, and the atypical 
eccentric radiographic appearance of the clot and its proximity 
to the surgical site.
.
#Hematuria - The patient underwent cystoscopy, clot evacuation, 
fulguration, and bladder biopsy. Her hematuria resolved after 
the procedure. Cytology was negative for malignant cells or 
fungal elements. The pathology from the bladder biopsy revealed 
edema, vascular congestion, hemorrhage and acute and chronic 
inflammation with scattered eosinophils. GMS and PAS-D fungal 
stains were negative.  
.  
#Anemia - Transfused 2 units PRBC for Hct 23% on ___ and 1 U 
PRBC on ___ for Hct 24.3%. Hematocrit subsequently remained 
stable without signs or symptoms of acute bleeding. Iron studies 
were most consistent with an anemia of chronic inflammation.   
.  
#Malignant lung nodule - Pathology from a left lower lobe nodule 
resected on ___ revealed poorly differentiated carcinoma 
concerning for metastatic disease. CA ___ was elevated at 213 
U/ml. CEA and CA125 were within normal limits. She will undergo 
repeat torso CT 3 months post-operatively. The patient wishes to 
follow up with her oncologist at ___, Dr. ___.
.  
#DM - Glyburide was increased to 5 mg daily given hyperglycemia 
in the setting of infection and corticosteroid therapy. She was 
covered with a humalog sliding scale.
.  
#Crohn's - Continued prednisone and mesalamine.
.  
#Nutrition - Given a cardiac, diabetic diet.   
.  
#Prophylaxis - SC heparin, PPI, bowel regimen.
 
Medications on Admission:
AMYLASE-LIPASE-PROTEASE [CREON 10] -  249 mg  Capsule, Delayed
Release(E.C.) - 4 Capsule(s) ___ mouth with each meal
ATENOLOL - 25 mg Tablet - ___ Tablet(s) ___ mouth daily Start one
week prior to surgery and continue 4 weeks after.
BUPROPION [WELLBUTRIN] -  (Prescribed ___ Other Provider) - 75 mg
Tablet - 2 Tablet(s) ___ mouth once a day
CILOSTAZOL [PLETAL] -  (Prescribed ___ Other Provider) - 100 mg
Tablet - 1 Tablet(s) ___ mouth twice a day
CONJUGATED ESTROGENS [PREMARIN] - 0.625 mg/gram Cream - apply to
affected area at bedtime
FOLIC ACID -  (Prescribed ___ Other Provider) - 1 mg Tablet - 1
Tablet(s) ___ mouth once a day
GLYBURIDE - 2.5 mg Tablet - one Tablet(s) ___ mouth daily
MESALAMINE [ASACOL] -  (Prescribed ___ Other Provider) - 400 mg
Tablet, Delayed Release (E.C.) - 2 Tablet(s) ___ mouth three 
times
daily
POTASSIUM CHLORIDE - 10 mEq Tab Sust.Rel. Particle/Crystal - one
Tab Sust.Rel. Particle/Crystal(s) ___ mouth twice daily
PRAVASTATIN [PRAVACHOL] -  (Prescribed ___ Other Provider) - 80 
mg
Tablet - 1 Tablet(s) ___ mouth once a day
PREDNISONE - 1 mg Tablet - ten Tablet(s) ___ mouth once a day
RABEPRAZOLE [ACIPHEX] -  (Prescribed ___ Other Provider; Dose
adjustment - no new Rx) - 20 mg Tablet, Delayed Release (E.C.) -
one Tablet(s) ___ mouth twice a day
VORICONAZOLE - 50 mg Tablet - 3 Tablet(s) ___ mouth twice daily
ALUM-MAG HYDROXIDE-SIMETH [MYLANTA] - 200 mg-200 mg-20 mg/5 mL
Suspension - 2 TBS ___ mouth daily as needed for as needed for
constipation
ASPIRIN -  (Prescribed ___ Other Provider) - 81 mg Tablet, 
Delayed
Release (E.C.) - 1 Tablet(s) ___ mouth once a day
CALCIUM-CHOLECALCIFEROL (D3) [OS-CAL 500 + D] -  (Prescribed ___
Other Provider; ___) - 500 mg (1,250 mg)-200 unit Tablet - 1
Tablet(s) ___ mouth three times a day
MULTIVITAMIN -  (Prescribed ___ Other Provider; ___) -   Tablet -
1 Tablet(s) ___ mouth once a day
 
Discharge Medications:
1. Amylase-Lipase-Protease 33,200-10,000- 37,500 unit Capsule, 
Delayed Release(E.C.) Sig: Four (4) Cap PO QIDWMHS (4 times a 
day (with meals and at bedtime)).  
2. Bupropion 150 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO QAM (once a day (in the morning)).  
3. Folic Acid 1 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Pletal 100 mg Tablet Sig: One (1) Tablet PO twice a day.  
5. Premarin 0.625 mg/g Cream Sig: One (1) application Vaginal at 
bedtime: Please apply to affected area at bedtime.  
6. Mesalamine 400 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO TID (3 times a day).  
7. Pravastatin 80 mg Tablet Sig: One (1) Tablet PO once a day.  
8. Prednisone 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
9. Os-Cal 500 + D 500 (1,250)-200 mg-unit Tablet Sig: One (1) 
Tablet PO three times a day.  
10. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
11. Glyburide 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

12. Aciphex ___ mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO twice a day: Please give 30 
minutes prior to breakfast and dinner.  
13. Aspirin EC 81 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day.  
14. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
15. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for constipation.  
16. Acetaminophen 500 mg Capsule Sig: ___ Capsules PO every six 
(6) hours as needed for fever or pain.  
17. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
PICC, heparin dependent: Flush with 10mL Normal Saline followed 
___ Heparin as above daily and PRN per lumen. 
18. Sodium Chloride 0.9%  Flush 3 mL IV PRN line flush 
Peripheral line: Flush with 3 mL Normal Saline every 8 hours and 
PRN. 
19. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for itching.  
20. Nystatin 100,000 unit Tablet Sig: One (1) Tablet Vaginal HS 
(at bedtime) as needed for itching.  
21. Phenazopyridine 100 mg Tablet Sig: One (1) Tablet PO TID (3 
times a day).  
22. Atenolol 25 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily): hold 
for sbp<100, hr<55.  
23. Nystatin 100,000 unit/mL Suspension Sig: Five (5) ML PO QID 
(4 times a day) as needed for thrush.  
24. Oxycodone 20 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours) as 
needed for pain: hold for RR<12, oversedation.  
25. Oxycodone 5 mg Tablet Sig: One (1) Tablet PO Q4H (every 4 
hours) as needed for pain: hold for RR<12, oversedation.  
26. Oxybutynin Chloride 5 mg Tablet Sig: One (1) Tablet PO QID 
(4 times a day).  
27. Heparin (Porcine) 5,000 unit/mL Solution Sig: One (1) 
injection Injection TID (3 times a day): ___ discontinue if 
ambulating regularly.  
28. Insulin sliding scale
Fingerstick QACHS    Insulin SC Sliding Scale 
  Breakfast   Lunch          Dinner          Bedtime 
Humalog      Humalog         Humalog         Humalog 
Glucose Insulin Dose Insulin Dose Insulin Dose Insulin Dose 
___   mg/dL ___ amp D50 ___ amp D50 ___ amp D50 ___ ampD50 
71-149   mg/dL 0   Units 0   Units 0   Units 0   Units 
150-199   mg/dL 2   Units 2   Units 2   Units 2   Units 
200-249   mg/dL 4   Units 4   Units 4   Units 4   Units 
250-299   mg/dL 6   Units 6   Units 6   Units 6   Units 
300-349   mg/dL 8   Units 8   Units 8   Units 8   Units 
350-399   mg/dL 10   Units 10   Units 10   Units 10   Units 
> 400   mg/dL ___ M.D. NotifyM.D. 
  Instructons for NPO Patients: half dose 

29. Meropenem 500 mg IV Q6H 
30. Vancomycin 1000 mg IV Q 12H 
31. Fluconazole 200 mg Tablet Sig: Two (2) Tablet PO Q24H (every 
24 hours).  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary 
1) Left lower lobe empyema 
2) Cystitis 
 
Secondary 
1) Non-insulin dependent diabetes mellitus 
2) Crohn's disease 
3) Pancreatic cancer status post surgical resection and 
chemoradiation 
4) Poorly differentiated carcinoma metastatic to the lung status 
post left lower lobe segmentectomy 

 
Discharge Condition:
asymptomatic with stable vital signs.

 
Discharge Instructions:
You were admitted to the hospital with bleeding and pain with 
urination. You were diagnosed with a bladder infection which was 
treated with antibacterial and antifungal medications. You were 
also diagnosed with an empyema, an infection of fluid in the 
pleural space between the left lung and chest wall. A drain was 
placed to help clear this infection and you were begun on a 
course of antibacterial and antifungal therapy. Please continue 
on these medications until you follow up in Infectious Diseases 
Clinic.

Your dose of glyburide was increased to 5 mg daily due to high 
blood sugars in the setting of infection and prednisone use. No 
changes were made to your other medications. Please continue 
taking your medications as prescribed.

Please follow up with Dr. ___ of ___ Department of 
Infectious Diseases on ___ at 9:30 AM. The 
office phone number is ___.

Please follow up with Dr. ___ on ___ 
at 11:30 AM. The office phone number is ___. 

Please follow up with Dr. ___ of ___ 
Department of Cardiothoracic Surgery on ___ at 
3:30 ___. The office phone number is ___. Please report 
to the ___ Floor Radiology Department for a Chest X-Ray 45 
minutes before your appointment.

Please call your physician or return to the Emergency Department 
if you experience fever, chills, sweats, dizziness, 
lightheadedness, chest pain, palpitations, cough, shortness of 
breath, back pain, abdominal pain, vomiting, diarrhea, bloody or 
dark stools, blood in the urine, worsening pain with urination, 
or leg swelling or pain.
 
Followup Instructions:
___